US07572919B2
1-[2-Hydroxy-4-(phenylmethoxy)phenyl]-2-phenylethanone (2d).
Using the previous procedure and starting from 1-(2,4-dihydroxyphenyl)-2-phenylethanone (7.08 g, 31.0 mmol) and benzyl alcohol (3.37 mL, 32.55 mmol), 8.62 g (87%) of the title compound was obtained as a white solid: mp 106-108° C. (lit. 104-105° C.); IR (KBr) 1620, 1572, 1500, 1389, 1352, 1270, 1230, 1192, 1134, 1000, 974, 830, 760, 729, 697, 628, 561 cm−1; 1H NMR (400 MHz, CDCl3) δ 12.69 (br s, 1H), 7.48 (d, J=8.7 Hz, 1H), 7.25-7.39 (m, 10H), 6.49-6.51(m, 2H), 5.07 (s, 2H), 4.20 (s, 2H); 13C NMR (100 MHz, CDCl3) δ 202.41, 166.20, 16.5.68, 136.22, 134.79, 132.53, 129.76, 129.17, 129.14, 128.76, 127.95, 127.51, 113.77, 108.75, 102.47, 70.66, 45.28; HRMS calculated for C21H18NaO3 (M+Na)+ 341.1154, found 341.1136.

reactant | 1-(2,4-dihydroxyphenyl)-2-phenylethanone | 31.0 mmol, 7.08 g | OC1=C(C=CC(=C1)O)C(CC1=CC=CC=C1)=O | C14H12O3
reactant | benzyl alcohol | 32.55 mmol, 3.37 mL | C(C1=CC=CC=C1)O | C7H8O
product | 1-[2-Hydroxy-4-(phenylmethoxy)phenyl]-2-phenylethanone | 8.62 g, 87% | OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CC1=CC=CC=C1)=O | C21H18O3
